US06277865B1
To a solution of 3-piperidone (12 mmol) in 200 mL of methylene chloride. is added triethylamine (18 mmol) in a single portion at room temperature and the reaction mixture cooled to 0° C. Benzyl chloroformate (12 mmol) is added dropwise via addition funnel and the reaction mixture allowed to warm to room temperature. Stirring is continued for 2 hours at room temperature. The reaction mixture is diluted with ethyl acetate (200 mL) and washed with 1N hydrochloric acid (3×100 mL), water and brine. The organic layer is worked up to provide N-Benzyloxycarbonyl-3-piperidone.

reactant | 3-piperidone | 12 mmol | N1CC(CCC1)=O | C5H9NO
reactant | triethylamine | 18 mmol | C(C)N(CC)CC | C6H15N
reactant | Benzyl chloroformate | 12 mmol | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
solvent | methylene chloride | 200 mL | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | 200 mL | C(C)(=O)OCC | C4H8O2
product | N-Benzyloxycarbonyl-3-piperidone | C(C1=CC=CC=C1)OC(=O)N1CC(CCC1)=O | C13H15NO3
